### PR TITLE
feat(Algebra/BigOperators/Fin): Add `finSigmaFinEquiv`

### PR DESCRIPTION
**Pull request by quangvdao**
This PR adds `finSigmaFinEquiv` which is the equivalence `(i : Fin m) × Fin (n i) ≃ Fin (∑ i, n i)`. This is the dependent version of `finProdFinEquiv`.

CI should be passing, but there are two things I'd like feedback on:
1. When defining the mappings, I have to consider `m = 0` separately. Is there a more uniform definition?
2. I'm proving this as a step toward defining `Fin.join`, which is the analogue of `List.join`. I can now technically define `Fin.join` as:
```
variable {a : Fin n → ℕ} {α : (i : Fin n) → (j : Fin (a i)) → Sort*}

def join (v : (i : Fin n) → (j : Fin (a i)) → α i j) (k : Fin (∑ i, a i)) :
    α (finSigmaFinEquiv.invFun k).1 (finSigmaFinEquiv.invFun k).2 :=
  v (finSigmaFinEquiv.invFun k).1 (finSigmaFinEquiv.invFun k).2
```
but this looks horrible. This highly motivates refactoring `invFun` as two new definitions:
```
def func1 {n : ℕ} (a : Fin n → ℕ) (k : Fin (∑ i, a i)) : Fin n := sorry

def func2 {n : ℕ} (a : Fin n → ℕ) (k : Fin (∑ i, a i)) : Fin (a (func1 a k)) := sorry
```
I'm not sure what to call these functions. The analogues in the non-dependent case are `divNat` and `modNat`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 1]
```diff
@@ -309,6 +309,69 @@ theorem finFunctionFinEquiv_single {m n : ℕ} [NeZero m] (i : Fin n) (j : Fin m
...
+      let j : Fin (n i) := ⟨k - ∑ j, n (Fin.castLE i.isLt.le j), by
+        have i_mem : i ∈ Fin.find (fun i => k < ∑ j, n (Fin.castLE i.isLt j)) := by
+          simp only [Option.mem_def, Option.some_get, i]
+        have hk : k < ∑ j, n (Fin.castLE i.isLt j) := Fin.find_spec _ i_mem
+        simp only [Fin.sum_univ_succAbove _ (Fin.last i), Fin.val_last, Fin.succAbove_last] at hk
+        rw [Nat.sub_lt_iff_lt_add' (sum_le_of_find_eq_some i_mem)]
+        exact hk⟩
+      ⟨i, j⟩)
+    (by
+      intro a; revert a
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Fin.lean:342]: Surely those are inverse to each other?
```suggestion
```

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -309,6 +309,69 @@ theorem finFunctionFinEquiv_single {m n : ℕ} [NeZero m] (i : Fin n) (j : Fin m
...
+      refine Fin.consInduction (fun a => ?_) ?_ n
+      · simp only [Finset.univ_eq_empty, Finset.sum_empty] at a
+        exact Fin.elim0 a
+      · intro _ _ _ _ _
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Fin.lean:346]:
```suggestion
      · intros
```

**Review by YaelDillies — COMMENTED** [review]
I agree with you that `m = 0` has to be treated separately

**Comment by eric-wieser** [comment]
> I agree with you that `m = 0` has to be treated separately

I disagree, see the commit I pushed. There is no need to deal with a case separately that is impossible.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 3]
```diff
@@ -309,9 +309,71 @@ theorem finFunctionFinEquiv_single {m n : ℕ} [NeZero m] (i : Fin n) (j : Fin m
...
+      · have : (i.val - 1) + 1 = i.val := by omega
+        rw [← Fin.sum_congr' _ this]
+        have := Fin.find_min (Option.mem_def.mp hi) (j := ⟨i.val - 1, by omega⟩)
+          <| Fin.lt_def.mpr (by simp only [and_true]; omega)
+        exact not_lt.mp this
+
+@[simp]
+theorem finSigmaFinEquiv_apply {m : ℕ} {n : Fin m → ℕ}
+    (k : (i : Fin m) × Fin (n i)) :
+      (finSigmaFinEquiv k : ℕ) = ∑ i, n (Fin.castLE k.1.isLt.le i) + k.2 := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Fin.lean:368]: Can you make the type of this summation explicit?

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 4]
```diff
@@ -262,6 +262,65 @@ theorem inv_partialProd_mul_eq_contractNth {G : Type*} [Group G] (g : Fin (n + 1
...
 
+section DivModSum
+
+/-- Given a tuple of natural numbers `n : Fin m → ℕ` and a natural number `k`, return the first
+index `i` such that `k` is smaller than `∑ j < i, n j`, and `none` otherwise.
+
+This is defined en-route to `Fin.divSum`, which is the dependent version of `Fin.divNat`.
+-/
+def divSum? {m : ℕ} (n : Fin m → ℕ) (k : ℕ) : Option (Fin m) :=
+  find (fun i => k < ∑ j, n (castLE i.isLt j))
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Fin.lean:273]: This looks wrong to me; `isLt` is a proof of `<`, but `castLE` is about `≤`.  Can you make the type of `i` and `j` explicit here to make it clearer what is going on?

Comment (quangvdao) [reply Mathlib/Algebra/BigOperators/Fin.lean:273]: So what happens here is that `i.isLt : i.val < n` is definitionally equal to `i.val.succ <= n`. So the sum is over `j : Fin i.val.succ`.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 5]
```diff
@@ -262,12 +262,71 @@ theorem inv_partialProd_mul_eq_contractNth {G : Type*} [Group G] (g : Fin (n + 1
...
 
+section DivModSum
+
+/-- Given a tuple of natural numbers `n : Fin m → ℕ` and a natural number `k`, return the first
+index `i` such that `k` is smaller than `∑ j < i, n j`, and `none` otherwise.
+
+This is defined en-route to `Fin.divSum`, which is the dependent version of `Fin.divNat`.
+-/
+def divSum? {m : ℕ} (n : Fin m → ℕ) (k : ℕ) : Option (Fin m) :=
+  find (fun i => k < ∑ j : Fin i.val.succ, n (castLE i.isLt j))
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Fin.lean:273]: Possibly better as
```suggestion
  find (fun i => k < ∑ j ∈ Finset.Iic i, n j)
```
which avoids the `.succ` and casting

Comment (quangvdao) [reply Mathlib/Algebra/BigOperators/Fin.lean:273]: Yeah, this is certainly possible and looks nicer. I'd probably want to propagate this change to `finPiFinEquiv` as well (which a quick search tells me isn't used anywhere else). It also means that I'll need to add more lemmas about sum over `Finset.Iic`.

If all of this sounds good to you, then I'll make the change.

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Fin.lean:273]: Let's check @YaelDillies agrees too

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Fin.lean:273]: Yes, makes sense to me

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
